US03931407
a. 2-(3,4-Dichlorophenacyl)cyclohexanone ##SPC90##
(0.19 mole) of 1-pyrrolidino-1-cyclohexene and 51.2 g. (0.19 mole) of 3,4-dichlorophenacyl bromide by the method described in Example 39a gave 32.6 g. (60%) of crystals, m.p. 78°-79° (from ethanol).

reactant | 1-pyrrolidino-1-cyclohexene | 0.19 mole | N1(CCCC1)C1=CCCCC1 | C10H17N
reactant | 3,4-dichlorophenacyl bromide | 0.19 mole | ClC=1C=C(C(CBr)=O)C=CC1Cl | C8H5BrCl2O
reactant | ethanol | C(C)O | C2H6O
product | 2-(3,4-Dichlorophenacyl)cyclohexanone | ClC=1C=C(C(CC2C(CCCC2)=O)=O)C=CC1Cl | C14H14Cl2O2
